US06313132B1
5.1 2-Methoxyphenyl-3-pyridyl-ketone
A solution of 2-bromoanisole (21 g, 0.11 mol) in diethyl ether (100 mL) was added to magnesium turnings during 45 minutes with heating. After the addition the reflux was continued for 15 min. The Grignard reagent was cooled to 0° C. and a solution of 3-cyanopyridine (10 g, 0.10 mol) in diethyl ether (100 mL) was added dropwise. The mixture was refluxed for a few minutes. Hydrochloric acid (20 mL, 0.24 mol, conc.) and 2-propanol (20 mL) were added and the reflux was continued for 30 min. Water and diethyl ether were added and the phases separated. The water-phase was made alkaline (2M NaOH) and was extracted with diethyl ether. The combined organic phases were dried (MgSO4) and evaporated to yield 17 g. The crude was chromatographed on silica (toluene-ethyl acetate 19:1) to give 3.75 g (19%). 1H NMR (CDCl3-d) δ3.76 (s, 3H), 7.01 (d, 1H), 7.10 (t, 1H), 7.41 (dd, 1H), 7.46 (dd, 1H), 4.53 (m, 1H), 8.12 (d, 1H), 8.75 (s, 1H) and 8.94 (s,

reactant | 2-bromoanisole | 0.11 mol, 21 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | [Mg] | Mg
reactant | 3-cyanopyridine | 0.10 mol, 10 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | Hydrochloric acid | 0.24 mol, 20 mL | Cl | ClH
reactant | Water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 2-Methoxyphenyl-3-pyridyl-ketone | COC1=C(C=CC=C1)C1=NC=CC=C1C(=O)C=1C(=NC=CC1)C1=C(C=CC=C1)OC | C25H20N2O3
